US07884227B2
Synthesis of Felbamate
A solution of 67 gm (0.44 moles) of 2-phenyl-1,3-propanediol, which had been dissolved in a mixture of 80 ml of acetonitrile and 65 ml of toluene at room temperature, was added to a mixture of 600 ml of dry toluene and 140 ml of chlorosulfonyl isocyanate placed in a dry reaction vessel maintained at −20° C. to −30° C. over a period of about 10 to 60 minutes. The reaction mixture was stirred for 30 to 45 minutes at about 30° C. to about 40° C. and the reaction progress monitored by high performance liquid chromatography (HPLC). Upon completion of reaction, water (1340 ml) was charged into the reaction mixture, increasing the reaction temperature to about 20° C. to about 40° C. The temperature of the reaction vessel was raised to about 45° C. to about 60° C. and the solvent distilled under vacuum until the reaction mixture was homogenous or its volume reduced to about 60 to 80 percent of the original volume of the reaction mixture. Water (670 ml) was then added to the reaction mixture, which was cooled to about 2° C. to about 5° C. and stirred for an hour at that temperature. The product was then filtered and washed with water.

reactant | 2-phenyl-1,3-propanediol | 0.44 moles, 67 gm | C1(=CC=CC=C1)C(CO)CO | C9H12O2
reactant | chlorosulfonyl isocyanate | 140 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | water | 1340 ml | O | H2O
reactant | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | toluene | 65 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | Felbamate | C=1C=CC(=CC1)C(COC(=O)N)COC(=O)N | C11H14N2O4
